US07968540B2
Step A. N-(2-Amino-3-nitrophenyl)-4-methylbenzenesulfonamide
A stirred mixture of 3-nitro-1,2-phenylenediamine (1.00 g, 6.53 mmol) and p-toluenesulfonyl chloride (1.25 g, 6.53 mmol) in pyridine (50 ml) was heated at reflux for 1 h, then concentrated to dryness in vacuo to give the title compound in sufficient purity for use in the next step. MS: m/z=308 (M+1).

reactant | 3-nitro-1,2-phenylenediamine | 6.53 mmol, 1.00 g | [N+](=O)([O-])C=1C(=C(C=CC1)N)N | C6H7N3O2
reactant | p-toluenesulfonyl chloride | 6.53 mmol, 1.25 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | N-(2-Amino-3-nitrophenyl)-4-methylbenzenesulfonamide | NC1=C(C=CC=C1[N+](=O)[O-])NS(=O)(=O)C1=CC=C(C=C1)C | C13H13N3O4S
